US06245761B1
Preparation of 4-(5-chloro-2-fluorobenzyloxy)-N-(isopropyl)butylamine
The desired intermediate was prepared essentially as described for the 4-(2-fluorobenzyloxy)-N-(isopropyl)butylamine above, except that an equimolar amount of 4-(5-chloro-2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine was employed in place of the 4- (2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine employed therein.

reactant | 4-(2-fluorobenzyloxy)-N-(isopropyl)butylamine | FC1=C(COCCCCNC(C)C)C=CC=C1 | C14H22FNO
reactant | 4-(5-chloro-2-fluorobenzyloxy)-N-(t-butoxycarbonyl)-N-(isopropyl)butylamine | ClC=1C=CC(=C(COCCCCN(C(C)C)C(=O)OC(C)(C)C)C1)F | C19H29ClFNO3
product | 4-(5-chloro-2-fluorobenzyloxy)-N-(isopropyl)butylamine | ClC=1C=CC(=C(COCCCCNC(C)C)C1)F | C14H21ClFNO
